US07838544B2
Step 4. 4-{5-[1-(4-chlorophenyl)cyclopropyl]-4-methyl-4H-1,2,4-triazol-3-yl}cyclohexanol
Methyl trifluoromethanesulfonate (53.9 μL, 0.491 mmol) was added to 1-(4-chlorophenyl)-N-methylcyclopropanecarboxamide (100.0 mg, 0.48 mmol). The resulting reaction mixture was stirred at 60° C. for 30 min. To the reaction mixture were then added toluene (2.0 mL), triethylamine (68.6 μL, 0.492 mmol) and 4-hydroxycyclohexanecarbo-hydrazide (38 mg, 0.24 mmol). The resulting mixture was stirred for 3 h at 60° C. and an additional 1 h. at 110° C. The mixture was then cooled to room temperature (about 25° C.). After cooling, the reaction mixture was concentrated to provide a residue. The residue was purified by Prep-HPLC to afford the desired products (cis- and trans-two isomers). Isomer I: LCMS: (M+H)+=332.2/334.2; isomer II: LCMS: (M+H)+=332.1/334.1.

reactant | Methyl trifluoromethanesulfonate | 0.491 mmol, 53.9 μL | FC(S(=O)(=O)OC)(F)F | C2H3F3O3S
reactant | 1-(4-chlorophenyl)-N-methylcyclopropanecarboxamide | 0.48 mmol, 100.0 mg | ClC1=CC=C(C=C1)C1(CC1)C(=O)NC | C11H12ClNO
reactant | triethylamine | 0.492 mmol, 68.6 μL | C(C)N(CC)CC | C6H15N
reactant | 4-hydroxycyclohexanecarbo-hydrazide | 0.24 mmol, 38 mg | OC1CCC(CC1)C(=O)NN | C7H14N2O2
solvent | toluene | 2.0 mL | C1(=CC=CC=C1)C | C7H8
product | 4-{5-[1-(4-chlorophenyl)cyclopropyl]-4-methyl-4H-1,2,4-triazol-3-yl}cyclohexanol | ClC1=CC=C(C=C1)C1(CC1)C=1N(C(=NN1)C1CCC(CC1)O)C | C18H22ClN3O
